2120-03-19 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
 DIALYSIS CATHETER - START [**2120-3-18**] 09:07 AM
 PICC LINE - START [**2120-3-18**] 09:15 AM
 URINE CULTURE - At [**2120-3-18**] 11:05 AM
 BLOOD CULTURED - At [**2120-3-18**] 11:20 AM
 COLONOSCOPY - At [**2120-3-18**] 12:00 PM
 COLONOSCOPY - At [**2120-3-19**] 12:15 AM
   - Flex sig by GI showed three ulcers, one with clot overlying.
   Biopsies for viral, bacterial, cx taken; OSH biopsies neg for viruses
   or tumor
   - GI recs - stool studies, anal swab, no NSAIDS, mesalamine enema if
   rectal symptoms, if w/u neg consider CT pelvis for ischemic eval
   - transfused 2 units PRBCs in the ED
   - Hct trend 25 --> 2 units PRBCs --> 26.2 --> 31 --> 24.8
   - DNR/DNI for religious reasons
   - captopril 6.25 mg PO x 1 for HTN 190-200+
   - large BRBPR, hct 22.4, given 2 units PRBCs, hct 23.9, more bleeding &
   dropped SBP 89 -> 500 cc bolus NS, 4 units PRBCs, 1 pkt plt, DDAVP, GI
   came & cauterized & clipped 2 ulcers, 1 activly bleeding; 1 unit PRBC
   - had some NSVT, got calcium and magnesium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-18**] 12:45 PM
   Penicillin G potassium - [**2120-3-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-3-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-19**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 73 (71 - 127) bpm
   BP: 159/52(77) {78/37(49) - 218/106(120)} mmHg
   RR: 8 (8 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
           Total In:
                                                                  4,389 mL
                                                                  1,019 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  1,857 mL
                                                                    253 mL
   Blood products:
                                                                  2,432 mL
                                                                    766 mL
   Total out:
                                                                    542 mL
                                                                    125 mL
   Urine:
                                                                    462 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,847 mL
                                                                    894 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Vitals:HR 72, BP 160/76, 100% on RA, RR 10,
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: LE cool with decreased hair present, no edema
   Labs / Radiology
   181 K/uL
   11.4 g/dL
   177 mg/dL
   7.7 mg/dL
   20 mEq/L
   4.6 mEq/L
   45 mg/dL
   109 mEq/L
   137 mEq/L
   31.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2120-3-18**]  08:30 AM
                             [**2120-3-18**]  08:45 AM
                             [**2120-3-18**]  10:44 AM
                             [**2120-3-18**]  02:58 PM
                             [**2120-3-18**]  07:37 PM
                             [**2120-3-18**]  10:07 PM
                             [**2120-3-19**]  12:34 AM
                             [**2120-3-19**]  03:40 AM
   WBC
   10.6
   10.0
   12.1
   Hct
   26.2
   31
   24.8
   23.8
   22.4
   23.9
   29.8
   31.4
   Plt
   [**Telephone/Fax (3) 5209**]
   Cr
   7.7
   Glucose
   177
   Other labs: PT / PTT / INR:14.0/27.4/1.2, ALT / AST:[**11-17**], Alk Phos / T
   Bili:42/0.9, Fibrinogen:209 mg/dL, Albumin:2.4 g/dL, LDH:197 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 49 yo male with ESRD on HD, DM, h/o CVA, here with lower GI
   bleed, secondary to rectal ulcers.
   .
   1.  GI bleed.  Recently discharged from [**Hospital1 587**] for lower GI bleed.  Had
   [**Last Name (un) **] which showed two non-bleeding rectal ulcers.  Initially unstable
   upon presentation to ED with AMS and tachycardia to 130s which improved
   with 2units of emergency release blood and 1LNS.  No active bleeding
   seen on colonoscopy on the morning of [**3-18**], but active bleeding seen
   from 1 ulcer when rescoped in the evening.  2 ulcers now banded and
   clipped.  No further bleeding overnight.  Surgical options not likely
   to be acceptable to this patient.  Biopsies pending.  Cause of
   ulceration unclear.  Could also do CT for ischemia evaluation, however,
   given location, ischemia seems unlikely.
   - IV PPI [**Hospital1 **] in case this is upper
   - q6 hour Hcts
   - several units crossed
   - Access: 2 16 guage IVs, Right tunneled HD line, Right power picc
   - GI & surgery both following
   .
   2.  Anemia.  Likely multifactorial due to chronic disease and bleeding.
   - serial hcts
   - continue epo
   - type and cross
   - NPO
   .
   4.  ESRD.  Patient is on HD MWF.  ESRD likely secondary to HTN (DM is
   diet controlled).  Last HD session Friday.
   - HD today, renal following
   - continue nephrocaps, zeplar, calcitriol
   .
   5.  DM.  Reportedly has DM, but this diet controlled.
   - follow finger sticks
   - HISS
   .
   6.  H/o Strep viridans line infeciton.  Last day of tx with PCN on
   [**3-18**].
   .
   6. HTN.  On lisinopril at terazon at home.
   - hold antihypertensives in setting of GI bleed and with HD this
   morning
   - if HTN this evening and no further bleeding, can consider low dose
   captopril
   .
   7. Schizophrenia.  Not on any psych meds at baseline.
   .
   8.  H/o CVA.  Was on aggrenox, but held in setting of GI bleed.
   - hold aggrenox
   .
   Ppx: pneumoboots (hold HSQ in setting of bleed).
   .
   FEN: renal, diabetic diet.
   .
   Access: 2 16 guage IVs, Right PICC, Right tunneled HD line
   .
   Code:DNR/DNI
   .
   Communication: Patient, HCP wife [**Name (NI) 5191**] [**Name (NI) 2760**] ([**Telephone/Fax (1) 5192**]
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2120-3-18**] 09:07 AM
   PICC Line - [**2120-3-18**] 09:15 AM
   16 Gauge - [**2120-3-18**] 09:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2120-03-19 09:34:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2120-3-18**] 09:07 AM
 PICC LINE - START [**2120-3-18**] 09:15 AM
 URINE CULTURE - At [**2120-3-18**] 11:05 AM
 BLOOD CULTURED - At [**2120-3-18**] 11:20 AM
 COLONOSCOPY - At [**2120-3-18**] 12:00 PM
 COLONOSCOPY - At [**2120-3-19**] 12:15 AM
   -Patient with acute evolution of brisk bleeing from rectum last pm.
   Colonscopy perfomred urgently and had bleeding from previously
   identified ulcers with cautery performed at bedside.
   -HCT had trended down--patient with acute bleed transfused 7 units PRBC
   with acute bleeding
   -Patient with transient hypertension overnight
   -DNR/DNI status confirmed
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-18**] 12:45 PM
   Penicillin G potassium - [**2120-3-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2120-3-19**] 01:15 AM
   Fentanyl - [**2120-3-19**] 01:15 AM
   Pantoprazole (Protonix) - [**2120-3-19**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2120-3-19**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 84 (71 - 127) bpm
   BP: 192/48(89) {78/37(49) - 218/95(110)} mmHg
   RR: 19 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
           Total In:
                                                                  4,389 mL
                                                                  1,069 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  1,857 mL
                                                                    303 mL
   Blood products:
                                                                  2,432 mL
                                                                    766 mL
   Total out:
                                                                    542 mL
                                                                    325 mL
   Urine:
                                                                    462 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,847 mL
                                                                    744 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   181 K/uL
   177 mg/dL
   7.7 mg/dL
   20 mEq/L
   4.6 mEq/L
   45 mg/dL
   109 mEq/L
   137 mEq/L
   31.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2120-3-18**]  08:30 AM
                             [**2120-3-18**]  08:45 AM
                             [**2120-3-18**]  10:44 AM
                             [**2120-3-18**]  02:58 PM
                             [**2120-3-18**]  07:37 PM
                             [**2120-3-18**]  10:07 PM
                             [**2120-3-19**]  12:34 AM
                             [**2120-3-19**]  03:40 AM
   WBC
   10.6
   10.0
   12.1
   Hct
   26.2
   31
   24.8
   23.8
   22.4
   23.9
   29.8
   31.4
   Plt
   [**Telephone/Fax (3) 5209**]
   Cr
   7.7
   Glucose
   177
   Other labs: PT / PTT / INR:14.0/27.4/1.2, ALT / AST:[**11-17**], Alk Phos / T
   Bili:42/0.9, Fibrinogen:209 mg/dL, Albumin:2.4 g/dL, LDH:197 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   49 yo male with admission with GI bleed and with brisk bleeding from
   rectal ulcers which have yet to be diagnosed.  He has had biopsies
   performed but results pending.  In this setting he has had intermittent
   and brisk bleeding noted. On colonscopy patient had clear clot on ulcer
   base and brisk bleeding with clot removal.  Cautery was effective in
   control of bleeding acutely but ultimate source and resolution will
   need to be defined.
   PCN?
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -Nephrocaps, Renagel
   -Dialysis today
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
   _Will need biopsy results
   -Concern is for possible inflammatory bowel disease source vs. ischemia
   as possible source
   -Viral (CMV) would appear less likely
   -Will continue with close monitoring, P-IV
s in place, HCT q 6 hours
   -Will maintain in ICU until further stability documented
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition: po diet to advance to clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2120-3-18**] 09:07 AM
   PICC Line - [**2120-3-18**] 09:15 AM
   16 Gauge - [**2120-3-18**] 09:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
Based on discussion with patient and
   contacts
and is longstanding and held view
   Disposition :ICU
   Total time spent: 45 minutes

2120-03-20 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
 EKG - At [**2120-3-19**] 09:15 AM
   - received HD
   - Hct drifting down
   - no bloody BMs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-18**] 12:45 PM
   Penicillin G potassium - [**2120-3-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-3-19**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-20**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 75 (74 - 95) bpm
   BP: 157/109(114) {136/48(72) - 194/109(114)} mmHg
   RR: 10 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,981 mL
                                                                    275 mL
   PO:
                                                                    850 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    365 mL
                                                                     35 mL
   Blood products:
                                                                    766 mL
   Total out:
                                                                  3,815 mL
                                                                    130 mL
   Urine:
                                                                    815 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,834 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur
   loudest at LUSB
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: LE cool with decreased hair present, no edema
   Labs / Radiology
   170 K/uL
   9.5 g/dL
   82 mg/dL
   5.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   37 mg/dL
   106 mEq/L
   139 mEq/L
   26.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2120-3-18**]  10:44 AM
                             [**2120-3-18**]  02:58 PM
                             [**2120-3-18**]  07:37 PM
                             [**2120-3-18**]  10:07 PM
                             [**2120-3-19**]  12:34 AM
                             [**2120-3-19**]  03:40 AM
                             [**2120-3-19**]  09:43 AM
                             [**2120-3-19**]  03:38 PM
                             [**2120-3-19**]  10:30 PM
                             [**2120-3-20**]  04:20 AM
   WBC
   10.0
   12.1
   9.5
   Hct
   24.8
   23.8
   22.4
   23.9
   29.8
   31.4
   28.3
   28.6
   28.0
   26.6
   Plt
   191
   181
   170
   Cr
   7.7
   5.7
   Glucose
   177
   82
   Other labs: PT / PTT / INR:12.6/26.2/1.1, ALT / AST:[**11-17**], Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Biopsies: Active proctitis with ulceration, no granulomas; differential
   includes infectious vs. inflammatory, vs. drug effect
   Assessment and Plan
   This is a 49 yo male with ESRD on HD, DM, h/o CVA, here with lower GI
   bleed, secondary to rectal ulcers.
   .
   1.  GI bleed.  Recently discharged from [**Hospital1 587**] for lower GI bleed.  Had
   [**Last Name (un) **] which showed three non-bleeding rectal ulcers.  Initially unstable
   upon presentation to ED with AMS and tachycardia to 130s which improved
   with 2units of emergency release blood and 1LNS.  No active bleeding
   seen on colonoscopy on the morning of [**3-18**], but active bleeding seen
   from 1 ulcer when rescoped in the evening.  2 ulcers now banded and
   clipped.  No further bleeding overnight.  Surgical options not likely
   to be acceptable to this patient.  Biopsies pending.  Cause of
   ulceration unclear.  Could also do CT for ischemia evaluation, however,
   given location, ischemia seems unlikely.  Hct slowly drifted down
   overnight, could be related to fluid shifts.  Will recheck today.
   - IV PPI [**Hospital1 **] in case this is upper
   - [**Hospital1 **] Hcts
   - several units crossed
   - Access: 2 16 guage IVs, Right tunneled HD line, Right power picc
   - GI & surgery both following; will discuss further with GI team the
   cause for these ulcers and what treatment, if any, is appropriate.
   .
   2.  Anemia.  Likely multifactorial due to chronic disease and bleeding.
   - serial hcts
   - active type and cross
   - no Epo per nephrology
   .
   4.  ESRD.  Patient is on HD MWF.  ESRD likely secondary to HTN (DM is
   diet controlled).  Received dialysis on [**3-19**]
   - HD again today, renal following
   - continue nephrocaps, zeplar, calcitriol
   .
   5.  DM.  Reportedly has DM, but this diet controlled.
   - follow finger sticks
   - HISS
   .
   6.  H/o Strep viridans line infeciton.  Last day of tx with PCN on
   [**3-18**].
   .
   6. HTN.  On lisinopril at terazon at home.
   - restart home meds today
   .
   7. Schizophrenia.  Not on any psych meds at baseline.
   .
   8.  H/o CVA.  Was on aggrenox, but held in setting of GI bleed.
   - hold aggrenox
   .
   Ppx: pneumoboots (hold HSQ in setting of bleed).
   .
   FEN: renal, diabetic diet.
   .
   Access: 2 16 guage IVs, Right PICC, Right tunneled HD line
   .
   Code:DNR/DNI
   .
   Communication: Patient, HCP wife [**Name (NI) 5191**] [**Name (NI) 2760**] ([**Telephone/Fax (1) 5192**]
   .
   Disposition: ICU care for now, if hct stable this after will likely
   call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2120-3-18**] 09:07 AM
   PICC Line - [**2120-3-18**] 09:15 AM
   16 Gauge - [**2120-3-18**] 09:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2120-03-20 11:00:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2120-3-19**] 09:15 AM
   _Dialysis this am
   -HCT with trend down but no brisk bleeding seen
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2120-3-18**] 12:45 PM
   Penicillin G potassium - [**2120-3-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-20**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 75 (75 - 95) bpm
   BP: 157/109(114) {136/48(72) - 194/109(114)} mmHg
   RR: 10 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,981 mL
                                                                    294 mL
   PO:
                                                                    850 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    365 mL
                                                                     54 mL
   Blood products:
                                                                    766 mL
   Total out:
                                                                  3,815 mL
                                                                    130 mL
   Urine:
                                                                    815 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,834 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   170 K/uL
   82 mg/dL
   5.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   37 mg/dL
   106 mEq/L
   139 mEq/L
   26.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2120-3-18**]  10:44 AM
                             [**2120-3-18**]  02:58 PM
                             [**2120-3-18**]  07:37 PM
                             [**2120-3-18**]  10:07 PM
                             [**2120-3-19**]  12:34 AM
                             [**2120-3-19**]  03:40 AM
                             [**2120-3-19**]  09:43 AM
                             [**2120-3-19**]  03:38 PM
                             [**2120-3-19**]  10:30 PM
                             [**2120-3-20**]  04:20 AM
   WBC
   10.0
   12.1
   9.5
   Hct
   24.8
   23.8
   22.4
   23.9
   29.8
   31.4
   28.3
   28.6
   28.0
   26.6
   Plt
   191
   181
   170
   Cr
   7.7
   5.7
   Glucose
   177
   82
   Other labs: PT / PTT / INR:12.6/26.2/1.1, ALT / AST:[**11-17**], Alk Phos / T
   Bili:42/0.9, Fibrinogen:209 mg/dL, Albumin:2.4 g/dL, LDH:197 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   49 yo male with rectal ulcer and biopsy showing active proctitis and
   ulceration--source not clearly defined--and intermittent brisk
   bleeding.
   1) RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -Dialysis today
   -Continue with supportive meds
   2) GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -2 P-IV's in place
   -Will need further definition of primary diagnosis
   -HCT q 12 hours today
   -GI and Surgery following
   3)HYPERTENSION, BENIGN
   -Captopril
   -Goal SBP-140
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2120-3-18**] 09:07 AM
   PICC Line - [**2120-3-18**] 09:15 AM
   16 Gauge - [**2120-3-18**] 09:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes